US05023334
Preparation of formic acid [1-(3-chloro-4-pyridinyl)ethylidene]hydrazide, Compound 394
A mixture of 6.30 gm (0.0405 mole) of 4-acetyl-3-chloropyridine, 2.46 gm (0.041 mole) of formic acid hydrazide and 100 ml of ethanol was refluxed 18 hr. The mixture was chilled in the freezer to give a solid which was collected in two crops. The product was purified by chromotography [keiselgel 60 (230-400 mesh)] and eluting with 5% methanol/methylene chloride to give 2.56 gm (32%) of white flakes which have a melting point of 175.2° C.

reactant | 4-acetyl-3-chloropyridine | 0.0405 mole, 6.30 gm | C(C)(=O)C1=C(C=NC=C1)Cl | C7H6ClNO
reactant | formic acid hydrazide | 0.041 mole, 2.46 gm | C(=O)NN | CH4N2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | formic acid [1-(3-chloro-4-pyridinyl)ethylidene]hydrazide | ClC=1C=NC=CC1C(C)=NNC=O | C8H8ClN3O
